US07589076B2
4-(nitro)benzyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
4-(nitro)benzyl chloroformate (5.00 g, 23.2 mmol) was added to a solution of tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate (3.98 g, 17.4 mmol) according to general procedure 1. Yield=4.66 g, 86%. m/z MH+=302.98. HPLC rt=12.3 min.

reactant | 4-(nitro)benzyl chloroformate | 23.2 mmol, 5.00 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 17.4 mmol, 3.98 g | C(C#C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO2
product | 4-(nitro)benzyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N2O4
